US06051712
In an analogous manner to that described in Example 22(k), by acylating 2,2,2-trichloro-ethyl (3RS,4RS)-4-[3-(2-hydroxy-ethoxy)-phenyl]-3-(naphthalen-2-ylmethoxy)-piperidine-1-carboxylate with benzoyl chloride there was obtained 2,2,2-trichloroethyl (3RS,4RS)-4-[3-(2-benzoyloxy-ethoxy)-phenyl]-3-(naphthalen-2-ylmethoxy)-piperidine-1-carboxylate as a colourless oil.

reactant | 2,2,2-trichloro-ethyl (3RS,4RS)-4-[3-(2-hydroxy-ethoxy)-phenyl]-3-(naphthalen-2-ylmethoxy)-piperidine-1-carboxylate | OCCOC=1C=C(C=CC1)C1C(CN(CC1)C(=O)OCC(Cl)(Cl)Cl)OCC1=CC2=CC=CC=C2C=C1 | C27H28Cl3NO5
reactant | benzoyl chloride | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
product | 2,2,2-trichloroethyl (3RS,4RS)-4-[3-(2-benzoyloxy-ethoxy)-phenyl]-3-(naphthalen-2-ylmethoxy)-piperidine-1-carboxylate | C(C1=CC=CC=C1)(=O)OCCOC=1C=C(C=CC1)C1C(CN(CC1)C(=O)OCC(Cl)(Cl)Cl)OCC1=CC2=CC=CC=C2C=C1 | C34H32Cl3NO6
